US04264599
A mixture of 46.0 g of 3-(2,3-epoxy-propoxy)-2-nitropyridine and 35.0 g of 1-(4-piperidyl)-imidazolidin-2-one in 500 ml of isopropanol is refluxed for 2 hours. Working up analogously to Example 1 using methylene chloride as the extracting agent yields crude 1-{1-[2-hydroxy-3-(2-nitro-3-pyridyloxy)-propyl]-4-piperidyl}-imidazolidin-2-one, which after recrystallisation from isopropanol melts at 154°-158°.

reactant | 3-(2,3-epoxy-propoxy)-2-nitropyridine | 46.0 g | O1C(COC=2C(=NC=CC2)[N+](=O)[O-])C1 | C8H8N2O4
reactant | 1-(4-piperidyl)-imidazolidin-2-one | 35.0 g | N1CCC(CC1)N1C(NCC1)=O | C8H15N3O
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | isopropanol | 500 ml | C(C)(C)O | C3H8O
product | 1-{1-[2-hydroxy-3-(2-nitro-3-pyridyloxy)-propyl]-4-piperidyl}-imidazolidin-2-one | OC(CN1CCC(CC1)N1C(NCC1)=O)COC=1C(=NC=CC1)[N+](=O)[O-] | C16H23N5O5
